US07094801B2
Ex-47D: To a solution of 2-(4-formyl-5-methoxy-2-thiophen-2-yl-phenoxy)-2-methyl-propionic acid ethyl ester (0.29 g, 0.83 mmol) in a mixture of tetrahydrofuran, water and methanol (9 mL, 4:1:1) was added lithium hydroxide (0.10 g, 2.49 mmol) and the resulting yellow slurry was stirred at rt for 5 h. The mixture was diluted with water (5 mL) and extracted with ethyl acetate (1×5 mL). The aqueous layer was acidified with a 1 N HCl solution and extracted with ethyl acetate (3×15 mL). The combined organic layers was dried over sodium sulfate and concentrated to afford 0.13 g (87%) of 2-(4-formyl-5-methoxy-2-thiophen-2-yl-phenoxy)-2-methyl-propionic acid as a pale green solid, mp 183–184° C. 1H-NMR (300 MHz, CDCl3) δ 10.32 (s, 1H), 8.12 (s, 1H), 7.40 (d, 1H, J=3.6 Hz), 7.32 (d, 1H, J=4.8 Hz), 7.08 (dd, 1H, J=4.8, 3.6 Hz), 6.47 (s, 1H), 3.86 (s, 3H), 1.78 (s, 6H). MS (EI) m/z=320 ([M]+, 100%). Anal. Calcd. for C16H16O5S: C, 59.99; H, 5.03; S, 10.01. Found: C, 60.04; H, 5.26; S, 9.70.

reactant | 2-(4-formyl-5-methoxy-2-thiophen-2-yl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.83 mmol, 0.29 g | C(C)OC(C(C)(C)OC1=C(C=C(C(=C1)OC)C=O)C=1SC=CC1)=O | C18H20O5S
reactant | methanol | 9 mL | CO | CH4O
reactant | lithium hydroxide | 2.49 mmol, 0.10 g | [OH-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-(4-formyl-5-methoxy-2-thiophen-2-yl-phenoxy)-2-methyl-propionic acid | 0.13 g, 87% | C(=O)C1=CC(=C(OC(C(=O)O)(C)C)C=C1OC)C=1SC=CC1 | C16H16O5S
